Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[CH2:3][CH2:4][CH2:5][c:6]1[cH:7][n:8][o:9][c:10]1-[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[CH3:17][CH2:18][N:19]1[NH:20][N:21]=[CH:22][CH:23]1[CH2:24][CH2:25][O:26][c:27]1[cH:28][cH:29][c:30]([NH2:31])[cH:32][cH:33]1>>[C:1](=[O:2])([CH2:3][CH2:4][CH2:5][c:6]1[cH:7][n:8][o:9][c:10]1-[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[NH:31][c:30]1[cH:29][cH:28][c:27]([O:26][CH2:25][CH2:24][CH:23]2[N:19]([CH2:18][CH3:17])[NH:20][N:21]=[CH:22]2)[cH:33][cH:32]1,[OH:101][C:1](=[O:2])[CH2:3][CH2:4][CH2:5][c:6]1[cH:7][n:8][o:9][c:10]1-[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1.[CH3:17][CH2:18][N:19]1[NH:20][N:21]=[CH:22][CH:23]1[CH2:24][CH2:25][O:26][c:27]1[cH:28][cH:29][c:30]([NH2:31])[cH:32][cH:33]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][CH2:4][CH2:5][c:6]1[cH:7][n:8][o:9][c:10]1-[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[NH:31][c:30]1[cH:29][cH:28][c:27]([O:26][CH2:25][CH2:24][CH:23]2[N:19]([CH2:18][CH3:17])[NH:20][N:21]=[CH:22]2)[cH:33][cH:32]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (31, 1), ([1, 2], 2), (303, 31.1), ([31.1, 31], 31), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
C[O:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH2:13][CH2:14][N:15]4[CH2:16][CH2:17][CH2:18][CH2:19][CH2:20]4)[cH:21][cH:22]3)[c:23](-[c:24]3[cH:25][cH:26][c:27]([S:28](=[O:29])(=[O:30])[CH2:31][C:32]([F:33])([F:34])[F:35])[cH:36][cH:37]3)[cH:38][cH:39][c:40]2[cH:41]1>>[OH:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH2:13][CH2:14][N:15]4[CH2:16][CH2:17][CH2:18][CH2:19][CH2:20]4)[cH:21][cH:22]3)[c:23](-[c:24]3[cH:25][cH:26][c:27]([S:28](=[O:29])(=[O:30])[CH2:31][C:32]([F:33])([F:34])[F:35])[cH:36][cH:37]3)[cH:38][cH:39][c:40]2[cH:41]1,[CH3:101][O:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH2:13][CH2:14][N:15]4[CH2:16][CH2:17][CH2:18][CH2:19][CH2:20]4)[cH:21][cH:22]3)[c:23](-[c:24]3[cH:25][cH:26][c:27]([S:28](=[O:29])(=[O:30])[CH2:31][C:32]([F:33])([F:34])[F:35])[cH:36][cH:37]3)[cH:38][cH:39][c:40]2[cH:41]1.Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([O:7][c:8]3[cH:9][cH:10][c:11]([O:12][CH2:13][CH2:14][N:15]4[CH2:16][CH2:17][CH2:18][CH2:19][CH2:20]4)[cH:21][cH:22]3)[c:23](-[c:24]3[cH:25][cH:26][c:27]([S:28](=[O:29])(=[O:30])[CH2:31][C:32]([F:33])([F:34])[F:35])[cH:36][cH:37]3)[cH:38][cH:39][c:40]2[cH:41]1,O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][c:8]2[cH:9][c:10]3[c:11]([cH:12][cH:13]2)[CH:14]([CH2:15][C:16]([O:17][CH2:18][CH3:19])=[O:20])[O:21][B:22]3[OH:23])[cH:24]1.[CH3:25][C:26]([CH3:27])([CH3:28])[O:29][C:30](=[O:31])[N:32]1[CH2:37][CH2:36][NH:35][CH2:34][CH2:33]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][c:8]2[cH:9][c:10]3[c:11]([cH:12][cH:13]2)[CH:14]([CH2:15][C:16]([O:17][CH2:18][CH3:19])=[O:20])[O:21][B:22]3[OH:23])[cH:24]1)[N:35]1[CH2:34][CH2:33][N:32]([C:30]([O:29][C:26]([CH3:25])([CH3:27])[CH3:28])=[O:31])[CH2:37][CH2:36]1,[O:101]=[CH:1][c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][c:8]2[cH:9][c:10]3[c:11]([cH:12][cH:13]2)[CH:14]([CH2:15][C:16]([O:17][CH2:18][CH3:19])=[O:20])[O:21][B:22]3[OH:23])[cH:24]1.[CH3:25][C:26]([CH3:27])([CH3:28])[O:29][C:30](=[O:31])[N:32]1[CH2:33][CH2:34][NH:35][CH2:36][CH2:37]1.[H+:301].[BH3-:302]C#N.[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][c:6]([O:7][c:8]2[cH:9][c:10]3[c:11]([cH:12][cH:13]2)[CH:14]([CH2:15][C:16]([O:17][CH2:18][CH3:19])=[O:20])[O:21][B:22]3[OH:23])[cH:24]1)[N:35]1[CH2:34][CH2:33][N:32]([C:30]([O:29][C:26]([CH3:25])([CH3:27])[CH3:28])=[O:31])[CH2:37][CH2:36]1,reductive_amination,"[(35, 1), ([1, 101], 301), (101, 35.1), ([35.1, 35], 35), (35, [35, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 35], 35)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
